US08461181B2
A mixture of 0.47 g of N1-tert-butyl-4-trifluoromethylbenzene-1,2-diamine, 0.51 g of isonicotinealdehyde-bisulfite adduct and 5 ml of N,N-dimethylformamide was stirred for 10 minutes at 150° C. The reaction mixture was ice-cooled, then, a 10% sodium hydroxide aqueous solution was poured, and the mixture was extracted with methyl tert-butyl ether. The organic layer was washed with water, dried over sodium sulfate, then, concentrated under reduced pressure to obtain a solid residue. The residue was washed with hexane, to obtain 0.26 g of 1-tert-butyl-2-(pyridin-4-yl)-5-trifluoromethyl-1H-benzimidazole (hereinafter, referred to as present active compound 220).

reactant | N1-tert-butyl-4-trifluoromethylbenzene-1,2-diamine | 0.47 g | C(C)(C)(C)NC=1C(=CC(=CC1)C(F)(F)F)N | C11H15F3N2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 1-tert-butyl-2-(pyridin-4-yl)-5-trifluoromethyl-1H-benzimidazole | 0.26 g | C(C)(C)(C)N1C(=NC2=C1C=CC(=C2)C(F)(F)F)C2=CC=NC=C2 | C17H16F3N3
